US07138425B2
d) 2-(3-Nitrophenyl)benzoxazole-7-carboxylic acid methyl ester
Prepared by the method of Example 15c), from 3-(3-nitrobenzamido)-2-hydroxybenzoic acid methyl ester (1.00 mg, 3.16 mmol) and p-toluenesulfonic acid monohydrate (1.26 mg, 6.64 mmol) the subtitle compound was obtained (600 mg, 64%). 1H NMR (DMSO) δ 8.95(m, 1H), 8.7(m, 1H), 8.59(dd, 1H), 8.23(d, 1H), 8.05(m, 2H), 7.70(t, 1H).

reactant | 3-(3-nitrobenzamido)-2-hydroxybenzoic acid methyl ester | 3.16 mmol, 1.00 mg | COC(C1=C(C(=CC=C1)NC(C1=CC(=CC=C1)[N+](=O)[O-])=O)O)=O | C15H12N2O6
reactant | p-toluenesulfonic acid monohydrate | 6.64 mmol, 1.26 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 2-(3-Nitrophenyl)benzoxazole-7-carboxylic acid methyl ester | COC(=O)C1=CC=CC=2N=C(OC21)C2=CC(=CC=C2)[N+](=O)[O-] | C15H10N2O5
